US03974145
A mixture of 8 g of sodium N1 -cinnamoyl-3,4-methylenedioxyphenylhydrazine-N2 -sulfite, ##EQU11## and 45 ml of levulinic acid was heated in the presence of small amount of surfuric acid at 80° - 85°C for 3 hours. The reaction mixture was cooled to a room temperature and poured into water to give 1-cinnamoyl-2-methyl-5,6-methylenedioxy-3-indolylacetic acid. The crystals obtained by twice recrystallizing from acetone-water (5 : 1) showed a melting point of 190° - 192°C.

reactant | sodium N1 -cinnamoyl-3,4-methylenedioxyphenylhydrazine N2 sulfite | 8 g | C(C=CC1=CC=CC=C1)(=O)N(N)C1=CC2=C(C=C1)OCO2.[Na].N#N.S(=O)([O-])[O-]
reactant | levulinic acid | 45 ml | C(CCC(=O)C)(=O)O | C5H8O3
solvent | water | O | H2O
product | 1-cinnamoyl-2-methyl-5,6-methylenedioxy-3-indolylacetic acid | C(C=CC1=CC=CC=C1)(=O)N1C(=C(C2=CC3=C(C=C12)OCO3)CC(=O)O)C | C21H17NO5
